US04215123
1,7-Dimethyl-1,2-dihydro-4-hydroxy-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester
To a solution of 9.0 g. (0.05 mole) of methyl 2-methylamino-6-methylnicotinate in 150 ml. of anhydrous diethyl ether was added 3.75 g. (0.025 mole) of ethyl malonyl chloride. The mixture was stirred at room temperature for 3 hours. The mixture was filtered and the filtrate was dissolved in 10 ml. of ethanol. This solution was added to a solution of 1.15 g. (0.05 g. atoms) of sodium in 75 ml. of ethanol. The mixture was stirred at room temperature for 5 minutes and was filtered. The filter cake was triturated with 100 ml. of water and this mixture was acidified with glacial acetic acid. The insoluble material was collected, air dried and was recrystallized from ethyl acetate to give 1.5 g. of the title compound, m.p. 143°-5° C.

reactant | methyl 2-methylamino-6-methylnicotinate | 0.05 mole | CNC1=C(C(=O)OC)C=CC(=N1)C | C9H12N2O2
reactant | ethyl malonyl chloride | 0.025 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 1,7-Dimethyl-1,2-dihydro-4-hydroxy-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC(=CC=C2C1O)C)C)=O | C13H14N2O4
